US08193228B2
tert-Butyllithium (1.7 M in pentane) (1.7 mL, 2.8 mmol) was added slowly to an ambient temperature solution of 2-methyl-1-trityl-1H-imidazole-4-carboxaldehyde in tetrahydrofuran (10 mL) at 0° C. After stirring at ambient temperature for 2 h, the reaction was quenched with saturated aqueous ammonium chloride and extracted with ethyl acetate. The combined extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-60% ethyl acetate/hexane afforded 2,2-dimethyl-1-(2-methyl-1-trityl-1H-imidazol-4-yl)propan-1-ol.

reactant | tert-Butyllithium | 2.8 mmol, 1.7 M, 1.7 mL | C(C)(C)(C)[Li]
reactant | 2-methyl-1-trityl-1H-imidazole-4-carboxaldehyde | CC=1N(C=C(N1)C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,2-dimethyl-1-(2-methyl-1-trityl-1H-imidazol-4-yl)propan-1-ol | CC(C(O)C=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)(C)C | C28H30N2O
